US06969766B2
[4-N-(Piperonyloxycarbonyl)-cytosin-1-yl]-acetic acid
To a suspension of [4-N-(piperonyloxycarbonyl)-cytosin-1-yl]-acetic acid ethyl ester (6.40 g, 17 mmol) in tetrahydrofuran (30 mL) and water (60 mL) was added lithium hydroxide monohydrate (1.6 g) at room temperature. After stirring 20 min, the reaction mixture was acidified by adding 1 N HCl (40 mL). The precipitated solid was filtered off, washed with water (20 mL) and ethyl alcohol (20 mL), and dried in vacuo to give the desired product (5.8 g, 98%). 1H-NMR (500 MHz; DMSO-d6) δ 7.94 (d, 1H), 6.93 (d, 1H), 6.90 (s, 1H), 6.82 (s, 2H), 5.93 (s, 2H), 4.99 (s, 2H), 4.43 (s, 2H).

reactant | [4-N-(piperonyloxycarbonyl)-cytosin-1-yl]-acetic acid ethyl ester | 17 mmol, 6.40 g | C(C)OC(CN1C(=O)N=C(NC(=O)OCC2=CC=3OCOC3C=C2)C=C1)=O | C17H17N3O7
reactant | lithium hydroxide monohydrate | 1.6 g | O.[OH-].[Li+]
reactant | HCl | 1 N, 40 mL | Cl | ClH
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | water | 60 mL | O | H2O
product | [4-N-(Piperonyloxycarbonyl)-cytosin-1-yl]-acetic acid | 5.8 g, 98% | C(C1=CC=2OCOC2C=C1)OC(=O)NC1=NC(N(C=C1)CC(=O)O)=O | C15H13N3O7
